2169-01-16 07:50:00 Physician Attending Progress Note
Chief Complaint: low tidal volumes on ventilator
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   85 yo woman with recenthospital admission with discharge [**1-13**] for
   hypercarbic respiratory failure in the setting of PE with traumatic
   intubation and tracheal laceration.  Returns for rehab with low tidal
   volumes and altered mental status in the setting of UTI and distal
   trach obstruction by granulation tissue.
   24 Hour Events:
   -acutely hypotensive with SBP 70s, then  hypoxemic with drop in MV to
   2-3L/min.  Patient became bradycardic with HR 20-30s, emergent
   bronchoscopy showed 95% occlusion of distal tip of tracheostomy.  Trach
   advanced 1.5L with improvement in tidal volumes.  Received total 1000cc
   crystalloid and levophed was initiated.  ABG   7.25/56/175  (AC
   400/14/5/0.4).  No repeat  ABG.
   -urine culture preliminarily with gram negative rods
   Allergies:
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-1-15**] 11:43 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2169-1-15**] 08:41 AM
   Enoxaparin (Lovenox) - [**2169-1-16**] 12:00 AM
   Atropine - [**2169-1-16**] 01:05 AM
   Other medications:
   Ciprolfoaxcin 400mg IV q2hr
   Lovenox 60mg q12hr
   Lisinopril 2.5mg daily
   Metoprolol 25mg [**Hospital1 **]
   MVI
   Simvastatin 20mg daily
   Vitamin D
   Coumadin 3mg daily
   albuterol
   Dulcolax
   Calcium carbonate
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-16**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.9
C (100.3
   Tcurrent: 37.7
C (99.9
   HR: 66 (35 - 85) bpm
   BP: 100/53(61) {72/29(39) - 122/68(75)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  3,117 mL
                                                                  1,372 mL
   PO:
             TF:
                                                                    312 mL
                                                                     77 mL
   IVF:
                                                                  2,115 mL
                                                                  1,184 mL
   Blood products:
   Total out:
                                                                    528 mL
                                                                    140 mL
   Urine:
                                                                    528 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,589 mL
                                                                  1,232 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (305 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 22 cmH2O
   Plateau: 16 cmH2O
   Compliance: 39.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.25/56/175/25/-3
   Ve: 6.8 L/min
   PaO2 / FiO2: 438
   Physical Examination
   General Appearance: No acute distress.  Adjustable [**Last Name (un) 2523**].
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present. PEG in place.
   Extremities: anasarcic.
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli but unable to follow commands.
   Moving all extremities.
   Labs / Radiology
   9.0 g/dL
   227 K/uL
   130 mg/dL
   0.7 mg/dL
   25 mEq/L
   4.5 mEq/L
   29 mg/dL
   109 mEq/L
   141 mEq/L
   29.0 %
   8.2 K/uL
        [image002.jpg]
                             [**2169-1-14**]  03:46 PM
                             [**2169-1-14**]  05:07 PM
                             [**2169-1-15**]  03:17 AM
                             [**2169-1-16**]  02:09 AM
                             [**2169-1-16**]  04:50 AM
   WBC
   7.0
   8.2
   Hct
   29.0
   29.0
   Plt
   163
   227
   Cr
   0.4
   0.7
   TropT
   0.03
   TCO2
   27
   29
   26
   Glucose
   121
   130
   Other labs: PT / PTT / INR:23.1/39.1/2.2, CK / CKMB /
   Troponin-T:16//0.03, Ca++:9.6 mg/dL, Mg++:2.2 mg/dL, PO4:3.7 mg/dL
   Urine culture [**1-14**]: >100K GNRs (sensitivities pending)
   Blood culture [**1-14**]: pending
   CXR: cardiomegaly.  L retrocardiac opacity.
   Assessment and Plan
   Hypoxemia and hypercarbia due to obstruction of distal trach
   -IP to perform bronchoscopy this morning.  Will ask them if they can
   switch adjustable to fixed length trach
   -repeat ABG to document resolution of hypercarbia
   -no change to ventilator settings for now pending bronchoscopy and
   repeat ABG
   -thoracic surgery team following
   # Altered mental status but unclear baseline
   -empirically on ciprofloxacin
   - continue cipro for now, will broaden to vancomycin and zosyn if not
   off levophed by this afternoon
   # CHF:  hypotension responded to IVF bolus.  EF 25% per report, no
   ECHOs in OMR.
   -discontinue  metoprolol and lisinopril for now
   # PEs:  Recently diagnosed in [**11-30**] in setting of dyspnea.  INR
   supratherapeutic.
   -continue to monitor INR, 2.2 today
   -discontinue lovenox tomorrow if  INR therapeutic
    # C2 fracture:  Fell on [**10-31**]
   - [**Location (un) **] J collar
   # AFib:
   -metoprolol on hold for now given levophed requirement
   ICU Care
   Nutrition: npo for bronchoscopy
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-14**] 02:30 PM
   Midline - [**2169-1-15**] 12:30 AM
   Prophylaxis:
   DVT: coumadin and lovenox
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code (was DNR/DNI prior to this hospital admission)
   Disposition : ICU
   Total time spent:
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   85 year old female with the history and presentation as described
   above.  Overnight, she did well from a respiratory standpoint but today
   she is having some fevers.
   Intubated, sedated, c-collar in place
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: No edema
   Neuro: poorly responsive
   Labs: As above
   Assessment:
   1) Tracheal obstruction
   2) UTI
   3) Possible aspiration pneumonia
   4) Acute on chronic respiratory failure
   5) C-2 fracture
   6) Hypotension
 resolved
   Plan:
   1) IP -> scope
   2) Change from cipro to Zosyn/vanc for better coverage of
   UTI/aspiration given vasopressor use and persistent fevers
   3) Determine baseline mental status to figure out if at baseline
   4) Continue mechanical ventilation at current settings
   Time Spent: 35 minutes
   Patient is critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2169-1-16**] 19:43 ------

2169-01-17 10:26:00 Physician Attending Progress Note
Chief Complaint: Altered mental status.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 BRONCHOSCOPY - At [**2169-1-16**] 01:20 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-1-16**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-1-16**] 07:29 PM
   Cefipime - [**2169-1-17**] 01:21 AM
   Vancomycin - [**2169-1-17**] 08:00 AM
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2169-1-16**] 04:45 PM
   Enoxaparin (Lovenox) - [**2169-1-17**] 12:58 AM
   Lansoprazole (Prevacid) - [**2169-1-17**] 08:00 AM
   Other medications:
   colace, atrovent, albuterol, prevacid, simvastatin, lovenox, coumadin,
   peridex, vitamin D, calcium carbonate, MVI, vancomycin 1g iv q12,
   cefepime 1g q24.
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-17**] 10:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.2
C (99
   HR: 59 (52 - 82) bpm
   BP: 112/44(60) {93/25(47) - 121/55(68)} mmHg
   RR: 16 (14 - 23) insp/min
   SpO2: 100%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 61 Inch
             Total In:
                                                                  2,590 mL
                                                                  1,213 mL
   PO:
             TF:
                                                                    629 mL
                                                                    503 mL
   IVF:
                                                                  1,851 mL
                                                                    396 mL
   Blood products:
   Total out:
                                                                    605 mL
                                                                    305 mL
   Urine:
                                                                    605 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,985 mL
                                                                    908 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 422 (422 - 422) mL
   PS : 14 cmH2O
   RR (Set): 14
   RR (Spontaneous): 10
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway, Vent Dependant
   PIP: 24 cmH2O
   Plateau: 17 cmH2O
   SpO2: 100%
   ABG: 7.55/31/110/25/5
   Ve: 7.1 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: No(t) Well nourished, No acute distress, Thin,
   cachectic
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: No(t)
   Clear : , Rhonchorous: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+, to the sacrum
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Non -purposeful,
   Tone: Normal
   Labs / Radiology
   7.7 g/dL
   120 K/uL
   111 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.3 mEq/L
   28 mg/dL
   109 mEq/L
   140 mEq/L
   23.8 %
   4.7 K/uL
        [image002.jpg]
                             [**2169-1-14**]  03:46 PM
                             [**2169-1-14**]  05:07 PM
                             [**2169-1-15**]  03:17 AM
                             [**2169-1-16**]  02:09 AM
                             [**2169-1-16**]  04:50 AM
                             [**2169-1-16**]  11:30 AM
                             [**2169-1-17**]  03:00 AM
                             [**2169-1-17**]  09:00 AM
   WBC
   7.0
   8.2
   4.7
   Hct
   29.0
   29.0
   23.6
   23.8
   Plt
   163
   227
   120
   Cr
   0.4
   0.7
   0.5
   TropT
   0.03
   TCO2
   27
   29
   26
   28
   Glucose
   121
   130
   96
   111
   Other labs: PT / PTT / INR:19.7/37.7/1.8, CK / CKMB /
   Troponin-T:16//0.03, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA): on broad spectrum
   antibiotic coverage with vanco/cefepime, for likely UTI, pending
   culture data. urine with [**Last Name (LF) **], [**First Name3 (LF) 116**] follow senses. Sputum culture
   pending
 ALTERATION IN NUTRITION: tube feeds
 Hct drop: will follow, guaiac stool, hemolysis labs.
 RESPIRATORY FAILURE, CHRONIC: continue vent support, will diuerse
   gently and r/a in am.
 ALTERED MENTAL STATUS (NOT DELIRIUM): improving
 .H/O ATRIAL FIBRILLATION (AFIB): continue to hold bblocker givne
   borderline BP.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-17**] 08:08 AM 50 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2169-1-15**] 12:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Coumadin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, no new problems but does continue to have low-grade fevers.
   Vitals as above
   Intubated, vented with c-collar in place
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: soft NT ND
   Ext: no edema
   Neuro: Follows simple commands
   Labs: As above
   Assessment:
   1)       Acute on chronic respiratory failure
   2)       UTI
 now growing ESBLs
   3)       ? Pneumonia
   4)       Altered Mental Status
 improved
   Plan:
   1)       Change to Meropenum to cover for ESBLs
   2)       Continue mechanical ventilation at current settings
   3)       Discharge planning
 possibly tomorrow if fevers resolve
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2169-1-17**] 05:34 PM ------

2169-01-18 10:42:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 MIDLINE - STOP [**2169-1-17**] 03:00 PM
   PICC line placement pending. Urine culture with ESBL E.coli, antbiotics
   changed to meropenem
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-1-16**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-1-16**] 07:29 PM
   Cefipime - [**2169-1-17**] 01:21 AM
   Vancomycin - [**2169-1-17**] 08:00 AM
   Meropenem - [**2169-1-18**] 08:46 AM
   Infusions:
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2169-1-17**] 11:30 AM
   Coumadin (Warfarin) - [**2169-1-17**] 04:00 PM
   Other medications:
   colace, atrovent, albuterol, lansoprazoel, simvastatin, chlorhexidine,
   vitamin D, Calcium carbonate, MVI, lasix 20mg dialy, meropenem.
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-18**] 10:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.2
C (99
   Tcurrent: 37.1
C (98.8
   HR: 65 (51 - 79) bpm
   BP: 104/48(63) {81/25(48) - 132/82(90)} mmHg
   RR: 19 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Height: 61 Inch
             Total In:
                                                                  2,429 mL
                                                                    810 mL
   PO:
             TF:
                                                                  1,203 mL
                                                                    520 mL
   IVF:
                                                                    655 mL
                                                                    200 mL
   Blood products:
   Total out:
                                                                  1,520 mL
                                                                    520 mL
   Urine:
                                                                  1,520 mL
                                                                    520 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    909 mL
                                                                    290 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 20 cmH2O
   Plateau: 15 cmH2O
   Compliance: 55.6 cmH2O/mL
   SpO2: 100%
   ABG: ///24/
   Ve: 9.8 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.1 g/dL
   130 K/uL
   111 mg/dL
   0.5 mg/dL
   24 mEq/L
   3.7 mEq/L
   27 mg/dL
   109 mEq/L
   140 mEq/L
   21.6 %
   3.0 K/uL
        [image002.jpg]
                             [**2169-1-14**]  05:07 PM
                             [**2169-1-15**]  03:17 AM
                             [**2169-1-16**]  02:09 AM
                             [**2169-1-16**]  04:50 AM
                             [**2169-1-16**]  11:30 AM
                             [**2169-1-17**]  03:00 AM
                             [**2169-1-17**]  09:00 AM
                             [**2169-1-17**]  03:06 PM
                             [**2169-1-17**]  08:55 PM
                             [**2169-1-18**]  03:22 AM
   WBC
   7.0
   8.2
   4.7
   4.3
   3.0
   Hct
   29.0
   29.0
   23.6
   23.8
   23.7
   22.1
   21.6
   Plt
   163
   227
   120
   119
   130
   Cr
   0.4
   0.7
   0.5
   0.5
   TropT
   0.03
   TCO2
   29
   26
   28
   Glucose
   121
   130
   96
   111
   110
   111
   Other labs: PT / PTT / INR:18.0/32.7/1.6, CK / CKMB /
   Troponin-T:16//0.03, Alk Phos / T Bili:/0.3, Fibrinogen:339 mg/dL,
   LDH:175 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.7 mg/dL
   Imaging: CXR stable LLL opacity
   Microbiology: Blood culture
   Sputum Culture pending.
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA): UTI vs VAP. On
   meropenem, was on vanco and cefepime yesterday with improvement of her
   mental status this is more likely VAP than UTI. She has copious
   secretions noted by RT. Will send sputum culture. Will add back
   vancomycin and treat for 8days total for both UTI/Pneumonia. Will place
   PICC line today.
 ALTERATION IN NUTRITION: tube feeds.
 IMPAIRED SKIN INTEGRITY: continue wound care.
 RESPIRATORY FAILURE, CHRONIC: will attempt to wean PS and SBT today.
   Will diurese
 ALTERED MENTAL STATUS (NOT DELIRIUM): improved on antibiotics.
 H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY): continue
   C-collar.
hx DVT/PE: resume lovenox therapeutic
low hct: will guiac stool, hemolysis labs wnl, transfuse 1U PRBC.
   minimize phlebotomy.
CHF: wil diurese negative 1L today.
   Rest of plan per HO note.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-18**] 01:59 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-18**] 06:38 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 30 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree
   substantially with the assessment and plan as above with the following
   modifications/emphasis:
   T37.2 P 62  BP 120/48  RR 18  Sat: 100%
   Intubated, trach in place
   Crackles bilaterally
   S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: As above
   Assessment:
   1) UTI
 ESBLs
   2) VAP
 probable
   3) Acute on Chronic Respiratory Failure
   4) C2 fracture
   Plan:
   1) Continue antibiotics
   2) Continue mechanical ventilation
   3) Diuresis
   4) PICC line
   5) Discharge planning as patient is now afebrile and infections under
   control
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2169-1-18**] 18:18 ------

2169-01-19 11:53:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 SPUTUM CULTURE - At [**2169-1-18**] 11:00 AM
 PICC LINE - START [**2169-1-18**] 04:45 PM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2169-1-16**] 12:15 PM
   Piperacillin/Tazobactam (Zosyn) - [**2169-1-16**] 07:29 PM
   Cefipime - [**2169-1-17**] 01:21 AM
   Vancomycin - [**2169-1-18**] 08:49 PM
   Meropenem - [**2169-1-19**] 09:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2169-1-18**] 06:00 PM
   Coumadin (Warfarin) - [**2169-1-18**] 06:00 PM
   Other medications:
   colace, ipratropium, simvastatin, vitamin D, calcium carbonate, MVI,
   meropenem, lopressor (being held), coumadin, lovenox [**Hospital1 **].
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-1-19**] 11:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**70**] AM
   Tmax: 37.7
C (99.8
   Tcurrent: 35.9
C (96.7
   HR: 81 (48 - 82) bpm
   BP: 113/44(52) {90/21(39) - 135/71(82)} mmHg
   RR: 18 (12 - 22) insp/min
   SpO2: 95%
   Heart rhythm: A Flut (Atrial Flutter)
   Height: 61 Inch
             Total In:
                                                                  2,207 mL
                                                                    808 mL
   PO:
             TF:
                                                                  1,107 mL
                                                                    587 mL
   IVF:
                                                                    600 mL
                                                                    221 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,420 mL
                                                                    630 mL
   Urine:
                                                                  2,420 mL
                                                                    630 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -213 mL
                                                                    178 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Unstable Airway
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   Compliance: 62.5 cmH2O/mL
   SpO2: 95%
   ABG: ///25/
   Ve: 9.2 L/min
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal), irregular/Afib
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , Diminished:
   left base.)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 2+, Left lower extremity
   edema: 2+
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, alert and interactive
   Labs / Radiology
   8.7 g/dL
   129 K/uL
   114 mg/dL
   0.5 mg/dL
   25 mEq/L
   3.7 mEq/L
   26 mg/dL
   107 mEq/L
   139 mEq/L
   25.7 %
   4.5 K/uL
        [image002.jpg]
                             [**2169-1-16**]  02:09 AM
                             [**2169-1-16**]  04:50 AM
                             [**2169-1-16**]  11:30 AM
                             [**2169-1-17**]  03:00 AM
                             [**2169-1-17**]  09:00 AM
                             [**2169-1-17**]  03:06 PM
                             [**2169-1-17**]  08:55 PM
                             [**2169-1-18**]  03:22 AM
                             [**2169-1-18**]  08:01 PM
                             [**2169-1-19**]  04:22 AM
   WBC
   8.2
   4.7
   4.3
   3.0
   4.5
   Hct
   29.0
   23.6
   23.8
   23.7
   22.1
   21.6
   25.7
   25.7
   Plt
   227
   120
   119
   130
   129
   Cr
   0.7
   0.5
   0.5
   0.5
   0.5
   TCO2
   26
   28
   Glucose
   130
   96
   111
   110
   111
   114
   Other labs: PT / PTT / INR:17.2/30.3/1.5, CK / CKMB /
   Troponin-T:16//0.03, Alk Phos / T Bili:/0.5, Fibrinogen:423 mg/dL,
   LDH:194 IU/L, Ca++:8.5 mg/dL, Mg++:2.1 mg/dL, PO4:2.7 mg/dL
   Imaging: CXR: pending
   Microbiology: Sputum with moderate gram negative rods
   Assessment and Plan
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA): resolved, VAP +
   UTI, continue meropenem 8days, d/c vancomycin.
 ALTERATION IN NUTRITION: contineu tube feeds.
 IMPAIRED SKIN INTEGRITY: continue wound care.
 RESPIRATORY FAILURE, CHRONIC: wean vent as tolerated.
 ALTERED MENTAL STATUS (NOT DELIRIUM): much improved.
 .H/O CERVICAL FRACTURE (WITHOUT SPINAL CORD INJURY): continue
   C-collar.
 .H/O ATRIAL FIBRILLATION (AFIB/ CHF: on low dose lopressor, resume
   lisinopril with BP allow. Increase coumadin. continue lovenox. Resume
   home lasix, and give one dose of iv lasi.
 PE/DVT: continue lovenox.
Anemia: no clear bleeding source, continue to follow much improved s/p
   IUPRBC, likely 2.2 to phelbotomy and anemia of chronic disease.
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2169-1-19**] 06:39 AM 50 mL/hour
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-1-18**] 06:38 AM
   PICC Line - [**2169-1-18**] 04:45 PM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: LMWH Heparin)
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition :Transfer to rehab / long term care facility
   Total time spent: 40 minutes
   ------ Protected Section ------
   I have seen and examined the patient with the fellow and agree with the
   assessment and plan as above with the following modifications/emphasis:
   Overnight, no new problems
   Afebrile, P 81  BP 113/44   RR 16  Sat  95%
   HEENT: Trach in place
   Chest: CTA bilaterally
   Heart: S1 S2 reg
   Abd: Soft NT ND
   Ext: no edema
   Labs: as above
   Assessment:
   1)       Pneumonia
   2)       UTI (ESBLs)
   3)       Acute Respiratory Failure
   4)       C2 Fracture
   5)       Atrial Fib
   6)       History of PE/DVT
   Plan:
   1)       Continue Meropenum/Vanc
   2)       Continue diuresis and wean
   3)       Lovenox/coumadin
   4)       Transfer to rehab
   Time Spent: 30 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 402**], MD
   on:[**2169-1-19**] 03:50 PM ------